US07179823B1
A mixture of ethyl 3-[3-benzyloxy-1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-1H-pyrazol-4-yl]propionate (379 mg), 1 N aqueous sodium hydroxide solution (2 ml), tetrahydrofuran (4 ml), and ethanol (4 ml) was stirred at room temperature for 5 hours, diluted with 1 N hydrochloric acid (2 ml), and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The obtained colorless crystals were collected by filtration, and 3-[3-benzyloxy-1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-1H-pyrazol-4-yl]propionic acid was obtained (299 mg, yield: 83%). This was recrystallized from ethanol-hexane. Melting point: 104–105° C.

reactant | ethyl 3-[3-benzyloxy-1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-1H-pyrazol-4-yl]propionate | 379 mg | C(C1=CC=CC=C1)OC1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1 | C31H31N3O6
reactant | sodium hydroxide | 1 N, 2 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
reactant | ethanol | 4 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 1 N, 2 ml | Cl | ClH
product | 3-[3-benzyloxy-1-[4-[2-(2-furyl)-5-methyl-4-oxazolylmethoxy]benzyl]-1H-pyrazol-4-yl]propionic acid | yield: 83% | C(C1=CC=CC=C1)OC1=NN(C=C1CCC(=O)O)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1 | C29H27N3O6
